US05475014
2-Hydroxymethylbenzothiazole
60 g of 2-aminothiophenol and 36.6 g of glycolic acid were heated at 130° C. in a sealed tube for 12 h. The reaction product was dissolved in ethyl acetate and dried over sodium sulfate and the solvent was concentrated under reduced pressure. The residue was crystallized from diisopropyl ether to give 55 g of the titled compound in the form of white crystals.

reactant | 2-aminothiophenol | 60 g | NC1=C(C=CC=C1)S | C6H7NS
reactant | glycolic acid | 36.6 g | C(CO)(=O)O | C2H4O3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Hydroxymethylbenzothiazole | 55 g | OCC=1SC2=C(N1)C=CC=C2 | C8H7NOS
